US07018993B2
A solution of 17β-(tert-butyldimethylsilyloxy)-7α-(3-(3-benzyloxy-5-hydroxyphenyl)propyl)-5α-androstan-3-one (21.0 mg) in DMF (0.3 ml) was cooled on ice, followed by addition of sodium hydride (1.6 mg) and 15-crown-5-ether (7.8 μl). After the reaction mixture was stirred for 30 minutes, 4-bromo-n-butyric acid benzyl ester (10 mg) was added and stirred on ice for 1 hour. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then filtered. After evaporation under reduced pressure to remove the solvent, the resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/4) to give 17β-(tert-butyldimethylsilyloxy)-7α-(3-(3-benzyloxy-5-(3-(benzyloxycarbonyl)propoxy)phenyl)propyl)-5α-androstan-3-one.

reactant | 17β-(tert-butyldimethylsilyloxy)-7α-(3-(3-benzyloxy-5-hydroxyphenyl)propyl)-5α-androstan-3-one | 21.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)CCCC2=CC(=CC(=C2)O)OCC2=CC=CC=C2 | C41H60O4Si
reactant | sodium hydride | 1.6 mg | [H-].[Na+]
reactant | 4-bromo-n-butyric acid benzyl ester | 10 mg | C(C1=CC=CC=C1)OC(CCCBr)=O | C11H13BrO2
reactant | Water | O | H2O
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | 17β-(tert-butyldimethylsilyloxy)-7α-(3-(3-benzyloxy-5-(3-(benzyloxycarbonyl)propoxy)phenyl)propyl)-5α-androstan-3-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)CCCC2=CC(=CC(=C2)OCCCC(=O)OCC2=CC=CC=C2)OCC2=CC=CC=C2 | C52H72O6Si
